US07071175B1
2-Amino-5-bromo-3-methylpyridine (15.0 g, 80.2 mmol) in tert-butanol was treated with di-tert-butyl dicarbonate (43.6 g, 200 mmol) and DMAP (0.60 g, 4.91 mmol). The reaction mixture was left at ambient temperature overnight and was then concentrated under reduced pressure. Hexane was added and the product precipitated as a solid. Filtering afforded 5-bromo-2-[N,N-bis(tert-butoxycarbonyl)amino]-3-methyl-pyridin (22.0 g, 71%).

reactant | 2-Amino-5-bromo-3-methylpyridine | 80.2 mmol, 15.0 g | NC1=NC=C(C=C1C)Br | C6H7BrN2
reactant | di-tert-butyl dicarbonate | 200 mmol, 43.6 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | tert-butanol | C(C)(C)(C)O | C4H10O
catalyst | DMAP | 4.91 mmol, 0.60 g | CN(C)C=1C=CN=CC1 | C7H10N2
product | 5-bromo-2-[N,N-bis(tert-butoxycarbonyl)amino]-3-methyl-pyridin | 22.0 g, 71% | BrC=1C=C(C(=NC1)N(C(=O)OC(C)(C)C)C(=O)OC(C)(C)C)C | C16H23BrN2O4
